US04775757
Methyl 2,5-dimethyl-3-thiophene acetate
A solution of 2,5-dimethyl-3-thiophene acetic acid (34 g, 0.200 mol) and concentrated sulfuric acid (1.0 ml) in MeOH (500 ml) was stirred at room temperature for 16 hours. The mixture was concentrated in vacuo, diluted to 500 ml with H2O, and neutralized with solid NaHCO3. The product was extracted with Et2O (2×200 ml), the organic layer was washed with H2O (1×100 ml), dried over MgSO4, and treated with activated charcoal. The solvent was removed in vacuo to give the product (33.2 g, 90% yield) as an oil; IR (neat) 1750 cm-1 ; mass spectrum m/z 184 (M+); 1H NMR (CDCl3) δ 2.32 (s, 3H, thiophene-CH3), 2.38 (s, 3H, thiophene-CH3), 3.45 (s, 2H, CH2CO2), 3.67 (s, 3H, CO2CH3), 6.53 (s, 1H, thiophene-H).

reactant | 2,5-dimethyl-3-thiophene acetic acid | 0.200 mol, 34 g | CC=1SC(=CC1CC(=O)O)C | C8H10O2S
reactant | sulfuric acid | 1.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 500 ml | CO | CH4O
product | Methyl 2,5-dimethyl-3-thiophene acetate | 33.2 g, 90% yield | CC=1SC(=CC1CC(=O)OC)C | C9H12O2S
